US05714484
Condensation with Asp(OtBu)OH: Asp(OtBu)OH (2.51 g) was dissolved in 40 mL of dry DMF under argon and 8.2 mL of bis(trimethylsilyl)acetamide (BSA) and the reaction was allowed to stir 40 minutes. In a separate flask, Mu-Val-Ala-OH (4.0 g) was dissolved in 200 mL of dry THF under argon and the resulting solution was cooled to -15° C. and one equivalent of N-methylmorpholine was added followed by one equivalent of isobutylchloroformate and the resulting mixture was allowed to stir 20 minutes and then the first reaction was then poured into the second reaction and both were maintained at -15° C. for one hour and then allowed to come slowly to room temperature and to stir overnight. The reaction was poured into 150 mL of 1N HCl and extracted with 2×200 mL of ethyl acetate. The combined organic fractions were washed with 15 mL 1N HCl, brine (50 mL), dried over MgSO4 (with decolorizing carbon), filtered, and the solvents were removed under reduced pressure to yield 4.89 g of Mu-Val-Ala-Asp(OtBu)OH.

reactant | Asp(OtBu)OH | N[C@@H](CC(OC(C)(C)C)=O)C(=O)O | C8H15NO4
reactant | Asp(OtBu)OH | 2.51 g | N[C@@H](CC(OC(C)(C)C)=O)C(=O)O | C8H15NO4
reactant | bis(trimethylsilyl)acetamide | 8.2 mL | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
reactant | N-methylmorpholine | one equivalent | CN1CCOCC1 | C5H11NO
reactant | isobutylchloroformate | one equivalent | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | HCl | 1N, 150 mL | Cl | ClH
reactant | Val-Ala-OH | 4.0 g | N[C@@H](C(C)C)C(=O)N[C@@H](C)C(=O)O | C8H16N2O3
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | Val-Ala-Asp(OtBu)OH | N[C@@H](C(C)C)C(=O)N[C@@H](C)C(=O)N[C@@H](CC(OC(C)(C)C)=O)C(=O)O | C16H29N3O6
